US07592363B2
4-[2-(2,4-DIMETHYLBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]-3-METHYLPHENOL
A solution of 2-(2,4-Dimethylbenzyl)-3-(4-methoxy-2-methylphenyl)-7-trifluoromethyl-2H-indazole (0.27 g, 0.63 mmol) and tetrabutylammonium iodide (0.7 g, 1.9 mmol) in 10 mL of CH2Cl2 was cooled to −78° C. and treated with boron trichloride 1M in CH2Cl2 (1.9 mL, 1.9 mmol). The reaction mixture was allowed to warm to ambient temperature. The reaction mixture was partitioned with 1N HCl and the organic phase was concentrated in vacuo. The residue was purified by flash chromatography to give 0.18 g of title compound as a white solid.

reactant | 2-(2,4-Dimethylbenzyl)-3-(4-methoxy-2-methylphenyl)-7-trifluoromethyl-2H-indazole | 0.63 mmol, 0.27 g | CC1=C(CN2N=C3C(=CC=CC3=C2C2=C(C=C(C=C2)OC)C)C(F)(F)F)C=CC(=C1)C | C25H23F3N2O
reactant | boron trichloride | 1M | B(Cl)(Cl)Cl | BCl3
catalyst | tetrabutylammonium iodide | 1.9 mmol, 0.7 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.9 mmol, 1.9 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(2,4-DIMETHYLBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]-3-METHYLPHENOL | 0.18 g | CC1=C(CN2N=C3C(=CC=CC3=C2C2=C(C=C(C=C2)O)C)C(F)(F)F)C=CC(=C1)C | C24H21F3N2O
